US07105554B2
3-Hydroxy-4-[(4-methoxyphenyl)methoxy]benzaldehyde
4-Methoxybenzylchloride (20.6 mL, 0.14 mol, 1.05 eq) was added to a stirred solution of 3,4-dihydroxybenzaldehyde (20 g, 0.15 mol, 1 eq), tetra-n-butylammonium iodide (44.6 g, 0.12 mol, 0.8 eq) and cesium carbonate (35.4 g, 0.11 mol, 0.75 eq) in N,N-dimethylformamide (200 mL). The reaction mixture was stirred for 2 days, and then concentrated in vacuo. The residual solution was diluted with ethyl acetate (200 mL) and washed with 0.5M HCl (400 mL), water (4×200 mL) and saturated sodium chloride solution (200 mL), then dried over sodium sulfate and evaporated in vacuo. This gave a gummy solid which was recrystallized from ethyl acetate and petroleum ether to give the product as a pale brown powder (21.29 g, 57%). 1H NMR (CDCl3) δ 9.84 (s, 1H, O═C—H), 5.80 (s, 1H, OH), 5.13 (s, 2H, CH2Ar), 3.85 (s, 3H, OCH3).

reactant | 4-Methoxybenzylchloride | 0.14 mol, 20.6 mL, 1.05 eq | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | 3,4-dihydroxybenzaldehyde | 0.15 mol, 20 g, 1 eq | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | cesium carbonate | 0.11 mol, 35.4 g, 0.75 eq | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tetra-n-butylammonium iodide | 0.12 mol, 44.6 g, 0.8 eq | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 3-Hydroxy-4-[(4-methoxyphenyl)methoxy]benzaldehyde | 21.29 g, 57% | OC=1C=C(C=O)C=CC1OCC1=CC=C(C=C1)OC | C15H14O4
